US06340559B1
Preparation of Bis-(2-hydroxyethyl)dimethyl ammonium hydroxide
The procedure of Example 1 was followed except that about 267 grams of DMEA, 300 grams of de-ionized water, and 125 grams of ethylene oxide were used. However, at the end of the nitrogen purge, about 4.5 grams of ethylenediamine were added. The product is a clear and colorless solution, and no color change was observed after one month of standing at room temperature.

reactant | DMEA | about 267 grams | CN(C)CCO | C4H11NO
reactant | ethylene oxide | 125 grams | C1CO1 | C2H4O
solvent | water | 300 grams | O | H2O
product | Bis-(2-hydroxyethyl)dimethyl ammonium hydroxide | [OH-].OCC[N+](C)(C)CCO | InChI=1S/C6H16NO2.H2O/c1-7(2,3-5-8)4-6-9;/h8-9H,3-6H2,1-2H3;1H2/q+1;/p-1
